US06673818B2
To a solution of 4-[3,5-difluoro-4-(methylthio)phenyl]-5-methyl-3-phenylisoxazole in dichloromethane (75 mL) and methanol (15 mL) cooled in an ice bath was added magnesium monoperoxyphthalate hexahydrate (4.4 g 80%, 7.1 mmol) in portions over 5 minutes. The reaction mixture was stirred for 90 minutes, then poured into water and extracted with dichloromethane (1×250 mL, 1×75 mL). The combined extracts were washed with dilute ammonium chloride, dried with magnesium sulfate, and concentrated. Purification by silica gel chromatography using 25% ethyl acetate/25% hexanes/50% dichloromethane gave 4-[3,5-difluoro-4-(methylsulfinyl)phenyl]-5-methyl-3-phenylisoxazole as a white solid. 1H NMR (CDCl3/400 MHz) 7.37-7.44 (m, 5H), 6.77-6.81 (m, 2H), 3.13 (s, 3H) 2.50 (s, 3H). HRMS m/z 334.0698 (M+H+, calcd 334.0713). Anal. Calcd for C17H13F2NO2S: C, 61.25; H, 3.93; N, 4.20; Found: C, 61.22; H, 4.00, N 4.02.

reactant | 4-[3,5-difluoro-4-(methylthio)phenyl]-5-methyl-3-phenylisoxazole | FC=1C=C(C=C(C1SC)F)C=1C(=NOC1C)C1=CC=CC=C1 | C17H13F2NOS
reactant | magnesium monoperoxyphthalate hexahydrate | 7.1 mmol, 4.4 g | O.O.O.O.O.O.C(C=1C(C(=O)[O-])=CC=CC1)(=O)O[O-].[Mg+2]
reactant | water | O | H2O
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
solvent | methanol | 15 mL | CO | CH4O
product | 4-[3,5-difluoro-4-(methylsulfinyl)phenyl]-5-methyl-3-phenylisoxazole | FC=1C=C(C=C(C1S(=O)C)F)C=1C(=NOC1C)C1=CC=CC=C1 | C17H13F2NO2S
